Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
___ is a ___ male with Down syndrome and 
history of cholecystectomy in ___ for gallstones who presented 
to ___ on ___ for abdominal pain and 
poor appetite. He was found to have obstructive pattern LFTs, 
pancreatitis, and evidence of intra and extrahepatic biliary 
duct dilatation and was transferred to ___ for possible ERCP 
and management of suspected gallstone pancreatitis.

He is aphasic at baseline, so history is obtained from his 
sister, ___, at the bedside. She reports that he has been 
clutching his abdomen in pain for the past week. She brought him 
in to the ___ on ___ and they did a CXR, AXR, and 
bloodwork, all of which was reportedly normal and he was 
discharged home. She brought him back to the ___ on ___ because 
he was having continued abdominal pain as well as decreased PO 
intake; he had a healthy appetite up until that day. He has not 
been having fevers or chills. No vomiting. No coughing or 
apparent respiratory distress. She does report that his bowel 
movements have been darker and maybe black. No hematochezia or 
BRBPR. 

___ course:
VS: SpO2 95% on RA
Exam: Diffusely tender abdomen
Labs: AST 403, ALT 660, ALP 817, Tbili 4.8, direct bili 3.6, 
lipase 7275
WBC 4.9, H/H 14.4/42.6, Plt 411
Imaging: CT abd/pelvis with contrast: pancreas unremarkable, s/p 
cholecystectomy with moderate intra and extrahepatic biliary 
ductal dilatation
Interventions: 3L NS, hydromorphone 1 mg IV

___ ___ course: 
VS: Tmax 98.3, HR ___, BP 100s-110s/60s-70s, RR ___, SpO2 
98-99% on RA
Labs: ___ labs below
Imaging: None
Interventions: ondansetron 4mg IV

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
Down syndrome
Aphasia
H/o gallstones s/p cholecystectomy (___)
H/o dental surgery (sister unsure of what type) around ___
H/o right arm surgery after fracture more than ___ years ago
 
Social History:
___
Family History:
Many family members with gallstones
 
Physical Exam:
ADMISSION EXAM:
VITALS: Tmax 98.9, HR ___, BP 110s/60s-70s, RR 18, SpO2 
97-98% on RA
___: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Oropharynx without visible lesion, erythema or exudate
CV: NR/RR, ___ systolic murmur over entire precordium.
RESP: Lungs clear to auscultation. Exam limited by 
participation.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: moves all extremities, No ___ edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, aphasic, face symmetric, gaze conjugate with EOMI, 
speech fluent, moves all limbs

DISCHARGE EXAM:
Vital Signs: 98.5PO ___ 18 98 RA    
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, ___ systolic murmur loudest at the base
PULM: Breathing comfortably with some transmitted upper airway 
sounds, non-cooperative with deep breathing but lungs sound 
clear on limited anterior auscultation
GI: S/NT/ND, BS present
EXT: no ___ edema 
NEURO: Non-focal

 
Pertinent Results:
ADMISSION LABS:
___ 02:00AM BLOOD WBC-5.6 RBC-4.08* Hgb-12.9* Hct-39.1* 
MCV-96 MCH-31.6 MCHC-33.0 RDW-14.6 RDWSD-51.3* Plt ___
___ 02:00AM BLOOD Neuts-78.3* Lymphs-13.9* Monos-3.9* 
Eos-0.7* Baso-1.2* Im ___ AbsNeut-4.39 AbsLymp-0.78* 
AbsMono-0.22 AbsEos-0.04 AbsBaso-0.07
___ 02:00AM BLOOD ___ PTT-37.0* ___
___ 02:00AM BLOOD Glucose-133* UreaN-4* Creat-0.4* Na-133* 
K-4.2 Cl-97 HCO3-21* AnGap-15
___ 02:00AM BLOOD ALT-508* AST-289* AlkPhos-720* 
TotBili-5.3*
___ 02:00AM BLOOD Lipase-551*
___ 02:00AM BLOOD Albumin-3.6

DISCHARGE LABS:
___ 08:40AM BLOOD WBC-3.1* RBC-4.09* Hgb-12.9* Hct-39.3* 
MCV-96 MCH-31.5 MCHC-32.8 RDW-14.6 RDWSD-51.7* Plt ___
___ 08:40AM BLOOD Glucose-100 UreaN-8 Creat-0.6 Na-142 
K-4.4 Cl-102 HCO3-30 AnGap-10
___ 08:40AM BLOOD ALT-395* AST-227* AlkPhos-590* 
TotBili-2.1*
___ 08:40AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.0

ERCP
The scout film was normal. 
The bile duct was successfully cannulated using a Clevercut 
sphincterotome preloaded with 0.025in guidewire.  
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree.  
Contrast injection revealed narrowing/ acute angulation at the 
mid common hepatic duct.  
The length of the narrowed segment was 1 - 2 mm.   
A 12 mm balloon passed through this area, but with some 
resistance.  
A biliary sphincterotomy was successfully performed with the 
sphincterotome.  
There was no post-sphincterotomy bleeding.  
The sphincterotome was exchanged for a balloon.  
The biliary tree was swept with a 9-12mm balloon starting at the 
bifurcation.  
Small amount of sludge was successfully removed.  
The CBD and CHD were swept repeatedly until no further stones 
were seen.  
A cholangioscopy was performed using the Spyglass system to 
evaluate the narrowing in mid CHD which was an acute angulation 
rather than a stricture.  
Multiple brushings were performed at the level of the angulation 
and sent for cytology.  
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.  
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.  
I supervised the acquisition and interpretation of the 
fluoroscopic images.  
The quality of the fluoroscopic images was good.   
Otherwise normal ercp to third part of the duodenum

CTA Pancreas - IMPRESSION:   
1. No pancreatic mass is identified. 
2. Persistent central intrahepatic and extrahepatic biliary 
ductal dilatation has improved compared with ___, now 
mild to moderate, following a sphincterotomy and balloon 
dilatation of the mid common hepatic duct. 
3. Focal area of acute angulation in the common bile duct seen 
on recent ERCP is tentatively identified without extrinsic 
lesion, potentially due to an adhesion.  Follow-up imaging in 3 
months is recommended, preferably with MRCP. 
4. Moderate rectal stool burden. 
RECOMMENDATION(S):  Follow-up imaging of the abnormal angulation 
of the common bile duct is recommended in 3 months with MRCP.  
If MRCP is not feasible, contrast-enhanced CT of the abdomen is 
recommended. 
 
Brief Hospital Course:
___ male with Down syndrome (aphasic at baseline) and 
history of cholecystectomy in ___ for gallstones who presented 
to OSH with abdominal pain and poor appetite, found to have 
obstructive pattern LFTs, elevated lipase, and evidence of intra 
and extrahepatic biliary duct dilatation on CT abd/pelvis and 
was transferred to ___ for possible ERCP and management of 
suspected gallstone pancreatitis. He underwent ERCP with removal 
of sludge. This also revealed tight angulation in bile duct; 
however, no clear source of biliary obstruction was identified. 
CTA pancreas was performed which did not show any concerning 
pancreatic lesions. Given tight angulation in bile duct (seen 
both on ERCP and CTA), follow up imaging was recommended in 3 
months. LFT's downtrended, and patient did not have any further 
evidence of abdominal pain. Perhaps, underlying etiology of 
patient's obstructive LFTs, lipase elevation, and abdominal pain 
was mild gallstone pancreatitis in the setting of passed 
gallstone.
  
TRANSITIONAL ISSUES:
- Cytology pending from ___, will need to be followed up.
- Pt will need repeat imaging (MRCP vs. repeat CT pancreas) in 3 
months to evaluate for any concerning interval changes in area 
of acute angulation of CBD.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis
Biliary Obstruction
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You presented to the hospital with abdominal pain and concern 
for blockage in your bile ducts. You had an endoscopic procedure 
called an ERCP. You had some sludge removed from your bile 
ducts, but there was no gallstone seen. You had a CT scan which 
did not show any concerning findings in your pancreas. You 
symptoms have improved and were perhaps related to a passed 
gallstone. You are now being discharged home.

The ERCP did show an area of your bile ducts with a sharp turn. 
The CT scan did not show any concerning findings in this are, 
but you will need repeat imaging of your pancreas in 3 months to 
re-evaluate this. You should follow up with your primary care 
physician to evaluate this.
 
Followup Instructions:
___